US08865713B2
Step C: 5-Fluoro-2-nitro-4-trifluoromethyl-phenylamine.
A suspension of N-(5-fluoro-2-nitro-4-trifluoromethyl-phenyl)-acetamide (17.8 g, 67.0 mmol) in aqueous HCl (3M, 400 mL) was heated at reflux for 3 h. The resulting suspension was cooled to 0° C. and brought to pH 8 with NaHCO3. The resulting solid was collected to yield the titled compound (13.7 g, 91% yield). The compound did not yield MS data. 1H NMR (400 MHz, CDCl3): 8.48 (d, J=7.3 Hz, 1H), 6.75-6.18 (m, 3H).

reactant | N-(5-fluoro-2-nitro-4-trifluoromethyl-phenyl)-acetamide | 67.0 mmol, 17.8 g | FC=1C(=CC(=C(C1)NC(C)=O)[N+](=O)[O-])C(F)(F)F | C9H6F4N2O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | 3M, 400 mL | Cl | ClH
product | 5-Fluoro-2-nitro-4-trifluoromethyl-phenylamine | 13.7 g, 91% yield | FC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C7H4F4N2O2
